US04229459
19.2 g (0.05 mol) of 1-(4-chlorophenoxy)-2-(2,4-dichlorophenyl)-1-(1,2,4-triazol-1-yl)-ethan-2-ol were dissolved in 100 ml of dioxane and the solution was added dropwise to a mixture of 2 g of 80% strength sodium hydride in 100 ml of dioxane at 80° C. After the evolution of hydrogen had subsided, 10 g (0.05 mol) of 2,4-dichlorobenzyl chloride were added dropwise and the mixture was heated under reflux for 15 hours. After cooling, the solvent was distilled off in vacuo and the residue was taken up in 100 ml of water and 100 ml of methylene chloride. The organic phase was separated off, washed twice with 100 ml of water each time, dried over sodium sulphate and concentrated by distilling off the solvent in vacuo. The solid residue was recrystallized from ether. 9 g (31% of theory) of 1-(4-chlorophenoxy)-2-(2,4-dichlorobenzyloxy)-2-(2,4-dichlorophenyl)-1-(1,2,4-triazol- 1-yl)-ethane of melting point 132°-135° C. were obtained.

reactant | 1-(4-chlorophenoxy)-2-(2,4-dichlorophenyl)-1-(1,2,4-triazol-1-yl)-ethan-2-ol | 0.05 mol, 19.2 g | ClC1=CC=C(OC(C(O)C2=C(C=C(C=C2)Cl)Cl)N2N=CN=C2)C=C1 | C16H12Cl3N3O2
reactant | sodium hydride | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 2,4-dichlorobenzyl chloride | 0.05 mol, 10 g | ClC1=C(CCl)C=CC(=C1)Cl | C7H5Cl3
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 1-(4-chlorophenoxy)-2-(2,4-dichlorobenzyloxy)-2-(2,4-dichlorophenyl)-1-(1,2,4-triazol- 1-yl)-ethane | 9 g, 31% | ClC1=CC=C(OC(C(C2=C(C=C(C=C2)Cl)Cl)OCC2=C(C=C(C=C2)Cl)Cl)N2N=CN=C2)C=C1 | C23H16Cl5N3O2
